Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, CP
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ y/o F from ___ w/ h/o HTN, hyperlipidemia, CAD status 
post NSTEMI with stent placement to left circumflex and RCA and 
history of asthma/COPD presenting with substernal chest pain and 
SOB. Denies f/c, cough, abdominal pain, n/v, or diarrhea. 
Reports a chronic cough with white mucus. Reports chest pain is 
improved, worsened with a deep breath and upon palpation. She 
reports she has had pain like this before 2x/year. 

Patient admitted to ___ for similar symptoms in ___. There 
was no consolidation on imaging. She was treated for a 
COPD/asthma exacervation with standing nebs, systemic steroid 
burst, and doxycycline. She was significantly with  treatment 
for asthma/COPD exacerbation including standing nebs, systemic 
steroid burst and doxycycline. She also had elevated BNP and 
crackles on exam, 
therefore c/f volume overload.  She was given one dose of IV 
furosemide and put out over 1L with improvement in respiratory 
status.  

In the ED today, initial vital signs were: 98.1 77 142/63 18 98% 
RA  
- Exam notable for: mild TTP in the chest wall at the site of 
the pain and expiratory rhonchi   
- Labs were notable for: negative troponins, elevated BNP to 
1857 and VBG showing hypercarbia to 63  
- Studies performed include: EKG wnl, CXR showing mild bibasilar 
patchy opacities, likely atelectasis vs. infection.  
- Patient was given: IV solumedrol and duonebs   
- Vitals on transfer: 98.3 76 141/57 19 99% RA   

Upon arrival to the floor, the patient has increased WOB and 
increased secretions. Reports mild CP. 

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
- Asthma: diagnosed at age ___ no PFTs as she was unable to 
participate in the exam; 4 lifetime hospitalizations, most 
recently two months ago; no history of intubations or MICU 
admissions.
- Coronary artery disease: s/p PCI to LCx and RCA in ___ and 
subsequent NSTEMI in ___ and ___.
- Hypertension
- Hyperlipidemia
- Peripheral vascular disease with infrapopliteal disease.
- Adjustment disorder with depressed mood
- Cataract s/p repair (R ___ L ___
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died the same day she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION EXAM
==============
Physical Exam:  
Vitals- 97.3
PO 135 / 61 84 20 98 3L  
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Moist mucous 
membranes, good dentition.  Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Expiratory wheezing, bibasilar crackles 
BACK: Skin. no spinous process tenderness. no CVA tenderness. 
ABDOMEN:  soft, +BS, slightly tender to palpation, nondistended
EXTREMITIES: Slight pitting edema up to mid-shins. Pulses 
DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact. ___ strength througout.  Normal 
sensation.  

DISCHARGE EXAM
===============
Vitals- 98.0
PO 130 / 68 82 16 95 RA 
GENERAL: AOx3, NAD
HEENT: Moist mucous membranes.  Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.
LUNGS: Upper airway breath sounds transmitted throughout, good 
air entry, no wheezes, rales, or rhonchi 
ABDOMEN: soft, +BS, non-tender, nondistended
EXTREMITIES: No edema or cyanosis
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:10AM   PLT COUNT-142*
___ 08:10AM   NEUTS-70.6 LYMPHS-16.4* MONOS-8.0 EOS-3.9 
BASOS-0.8 IM ___ AbsNeut-4.39 AbsLymp-1.02* AbsMono-0.50 
AbsEos-0.24 AbsBaso-0.05
___ 08:10AM   WBC-6.2 RBC-4.06 HGB-12.7 HCT-37.8 MCV-93 
MCH-31.3 MCHC-33.6 RDW-13.0 RDWSD-44.3
___ 08:10AM   proBNP-1857*
___ 08:10AM   cTropnT-<0.01
___ 08:10AM   estGFR-Using this
___ 08:10AM   GLUCOSE-107* UREA N-15 CREAT-1.1 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-26 ANION GAP-16
___ 08:28AM   LACTATE-1.6
___ 08:28AM   COMMENTS-GREEN TOP 
___ 08:29AM   ___ PO2-107* PCO2-63* PH-7.15* TOTAL 
CO2-23 BASE XS--7
___ 10:30AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 07:16PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:16PM URINE  COLOR-Straw APPEAR-Clear SP ___

DISCHARGE LABS
==============
___ 08:00AM BLOOD WBC-7.8 RBC-4.21 Hgb-13.5 Hct-39.3 MCV-93 
MCH-32.1* MCHC-34.4 RDW-13.5 RDWSD-45.7 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-143* UreaN-21* Creat-1.1 Na-143 
K-3.6 Cl-103 HCO3-25 AnGap-19
___ 08:00AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.0

IMAGING / STUDIES
==============
CHEST X-RAY ___
Mild bibasilar patchy opacities, likely atelectasis, but 
infection is not 
completely excluded in the correct clinical setting. 

TTE ___
The left ventricular cavity size is normal. Overall left 
ventricular systolic function is normal (LVEF = 60%). However, 
the posterior wall appears hypokinetic. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
is not well seen. There is no aortic valve stenosis. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. There 
is no pericardial effusion. 

 Compared with the prior study (images reviewed) of ___, 
the left ventricular ejection fraction is increased.  

 
Brief Hospital Course:
___ with h/o asthma/COPD who presents chest pain and dyspnea, 
with negative troponins and elevated BNP c/f acute reactive 
airway disease exacerbation and/or acute exacerbation of 
systolic congestive heart failure. Patient's symptoms improved 
with prednisone, ceftriaxone, azithromycin, and 
albuterol/ipratropium nebs. She had an episode of chest pain, 
associated with lateral ST depressions, which resolved with 
nitroglycerin.  Troponins were negative, and she was seen by 
cardiology, who did not recommend any further workup as the 
presentation was thought to be associated to her reactive 
airways disease rather than ACS. She had an EKG with lateral ST 
depression which improved nitro. An ECHO was unrevealing. She 
will be ___ with Dr. ___ outpatient in 2 weeks. 

#COPD/asthma exacerbation: No clear consolidation on CXR, but 
unable to rule out infection. Afebrile, no leukocytosis, flu 
negative. Improved significantly with standing nebs, and 5 day 
course of prednisone. Likely due to reactive airway disease
exacerbation in the setting of PMH of COPD/asthma. Also treated 
with 5 day course of IV ceftriaxone and azithromycin x 5 days.  

#Mixed systolic/diastolic heart failure exacerbation:  Patient 
was clinically volume overloaded on admission with wet rales, 
elevated BNP, orthopnea.  This improved rapidly with a one time 
dose of IV Lasix 20mg on admission.  

#Chest Pain: EKG wnl, troponins x 1 negative in ED. Persumed
volume overload with elevated BNP consistent with acute on
chronic systolic heart failure. Exam with slight pitting edema
and bibasilar crackles. One episode of CP on ___ with EKG
concerning for NSTEMI w/ lateral ST depressions. Given nitro,
morphine, and started on heparin gtt with improvement in 
symptoms
and EKG findings. Repeat trops negative. MB stable at 4. 
Cardiology consulted. Less likely cardiac in nature, stopped 
heparin gtt. Recommend o/p ___. ECHO w/ improved EF (EF 
60%) from prior study in ___. Increased imdur to 60 mg PO daily 
on discharge. 

#Toxic/metabolic encephalopathy: Acute change in mental status x 
1. Patient more
agitated and confused compared to her baseline. Likely from
prednisone pulse and hospital related delirium. UA negative. 
Improved without intervention. 

CHRONIC ISSUES
---------------
#HTN: Continued losartan, metoprolol XL and Imdur.

#PAD/CAD/HLD: Continued statin and clopidogrel.

#INSOMNIA: Continued remeron.

#CONSTIPATION: Continued senna and miralax.

#OA pain: Continued Tylenol. 

TRANSITIONAL ISSUES
====================
- Dr. ___ in 2 weeks
- Outpatient ___ with PCP and pulmonologist 

FULL CODE
HCP: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
2. Atorvastatin 80 mg PO QPM 
3. Budesonide Nasal Inhaler 0.5 mg/2 mL  nasal TID 
4. Clopidogrel 75 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Losartan Potassium 25 mg PO DAILY 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Mirtazapine 15 mg PO QHS 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
12. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
13. Aspirin 81 mg PO DAILY 
14. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
BID 
15. TheraTears (carboxymethylcellulose sodium) 0.25%  ophthalmic 
QID 
16. Docusate Sodium 100 mg PO BID 
17. GuaiFENesin ___ mL PO Q6H:PRN cough 
18. Multi-Vite (multivitamin-iron-folic acid) ___ mg-mcg oral 
DAILY 
19. Senna 8.6 mg PO QHS:PRN constipation 
20. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 

 
Discharge Medications:
1.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Budesonide Nasal Inhaler 0.5 mg/2 mL  nasal TID  
6.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
BID  
7.  Clopidogrel 75 mg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
10.  GuaiFENesin ___ mL PO Q6H:PRN cough  
11.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
12.  Losartan Potassium 25 mg PO DAILY  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Mirtazapine 15 mg PO QHS  
15.  Multi-Vite (multivitamin-iron-folic acid) ___ mg-mcg 
oral DAILY  
16.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
17.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
18.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
19.  Senna 8.6 mg PO QHS:PRN constipation  
20.  TheraTears (carboxymethylcellulose sodium) 0.25%  
ophthalmic QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma/COPD exacerbation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because you had chest pain and trouble 
breathing. We found you to have an asthma attack which we 
treated with inhaled medications, steroids, and antibiotics. You 
improved with these treatments and no longer required oxygen to 
breath comfortably. You also had an episode of chest pain and 
were evaluated by our cardiologists who recommended outpatient 
___ to make sure that there is nothing wrong with your 
heart. You were discharged and we recommend ___ with your 
primary care physician, ___, as well as a 
cardiologist. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___